US06359145B1
NaBH4 (1.82 g) was added portionwise to an ice cooled solution of ethyl (R)-2-hydroxy-4-phenylbutyrate (2.0 g) in methanol (40 ml). After the addition was completed, the reaction mixture was stirred at room temperature for 45 minutes. Water (20 ml) was added, and the resulting mixture was stirred for several minutes and then evaporated under reduced pressure. The residue was extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure gave (R)-4-phenylbutane-1,2-diol (1.63 g) as a colorless oil. This material was used for the next reaction without further purification.

reactant | NaBH4 | 1.82 g | [BH4-].[Na+]
reactant | ethyl (R)-2-hydroxy-4-phenylbutyrate | 2.0 g | O[C@@H](C(=O)OCC)CCC1=CC=CC=C1 | C12H16O3
reactant | Water | 20 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | (R)-4-phenylbutane-1,2-diol | 1.63 g | C1(=CC=CC=C1)CC[C@H](CO)O | C10H14O2
